US06316437B1
Step G: Preparation of (+/−)-1-{3-[4-(4-fluorophenyl)piperidin-1-yl]butyl}-5′-chloro-spiro[imidazolidine-4,1′indan]-2,5-dione hydrochloride
To a solution of (+/−)N-{3-[4-(4-fluorophenyl)piperidin-1-yl]butyl}-1-tert-butoxycarbonylamino-5-chloro-indane-1-carboxamide (170 mg, 0.31 mmol) in tetrahydrofuran (4 mL) was added 60% sodium hydride/mineral oil (30 mg, 0.7 mmol) and the reaction mixture was warmed at 50° C. for one hour. The cooled reaction was diluted with ethyl acetate, washed with aqueous sat'd sodium bicarbonate, dried (anhyd. sodium sulfate), filtered, and the solvent concentrated under vacuum. The residue was triturated with methanol and the solid product collected by filtration. This material was suspended in methanol (3 mL) and 1 HCl/diethyl ether (0.25 mL) was added. Upon dilution with more diethyl ether the product salt slowly precipitated and solidified to give the title compound. By chiral HPLC this is a mixture of at least three diastereomers.

reactant | (+/−)N-{3-[4-(4-fluorophenyl)piperidin-1-yl]butyl}-1-tert-butoxycarbonylamino-5-chloro-indane-1-carboxamide | 0.31 mmol, 170 mg | FC1=CC=C(C=C1)C1CCN(CC1)C(CCNC(=O)C1(CCC2=CC(=CC=C12)Cl)NC(=O)OC(C)(C)C)C | C30H39ClFN3O3
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+/−)-1-{3-[4-(4-fluorophenyl)piperidin-1-yl]butyl}-5′-chloro-spiro[imidazolidine-4,1′indan]-2,5-dione hydrochloride | Cl.FC1=CC=C(C=C1)C1CCN(CC1)C(CCN1C(NC2(CCC3=CC(=CC=C23)Cl)C1=O)=O)C | InChI=1S/C26H29ClFN3O2.ClH/c1-17(30-13-10-19(11-14-30)18-2-5-22(28)6-3-18)9-15-31-24(32)26(29-25(31)33)12-8-20-16-21(27)4-7-23(20)26;/h2-7,16-17,19H,8-15H2,1H3,(H,29,33);1H
